US04224344
To a mixture of morpholine (870 mg) and formic acid (460 mg) heated at 60° C. was added β-(9,10-dihydro-9,10-methano-9-anthryl)propionaldehyde (50 mg). The resultant mixture was stirred at 60° C. for 30 minutes and at 80° C. for 1.5 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous sodium sulfate and evaporated to dryness to give 9-γ-morpholinopropyl-9,10-dihydro-9,10-methanoanthracene, which was converted into its hydrochloride. M.P. 173°-176.5° C.

reactant | morpholine | 870 mg | N1CCOCC1 | C4H9NO
reactant | formic acid | 460 mg | C(=O)O | CH2O2
reactant | β-(9,10-dihydro-9,10-methano-9-anthryl)propionaldehyde | 50 mg | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CCC=O | C18H16O
solvent | water | O | H2O
product | 9-γ-morpholinopropyl-9,10-dihydro-9,10-methanoanthracene | O1CCN(CC1)CCCC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C22H25NO
